US07365084B2
Analogously to the building block synthesis of 4-iodomethyl-5-phenyl-2-p-tolyloxazole, pentane-2,3-dione-2-oxime and 3,4-dimethylbenzaldehyde gave 2-(3,4-dimethylphenyl)-5-ethyl-4-iodomethyloxazole.

reactant | 4-iodomethyl-5-phenyl-2-p-tolyloxazole | ICC=1N=C(OC1C1=CC=CC=C1)C1=CC=C(C=C1)C | C17H14INO
reactant | pentane-2,3-dione-2-oxime | CC(C(CC)=O)=NO | C5H9NO2
reactant | 3,4-dimethylbenzaldehyde | CC=1C=C(C=O)C=CC1C | C9H10O
product | 2-(3,4-dimethylphenyl)-5-ethyl-4-iodomethyloxazole | CC=1C=C(C=CC1C)C=1OC(=C(N1)CI)CC | C14H16INO
